Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][cH:12]1.[CH3:13][O:14][C:15](=[O:16])[CH2:17][O:18][c:19]1[cH:20][cH:21][c:22]([N:23]=[N:24][c:25]2[cH:26][cH:27][c:28]([CH2:29][OH:30])[cH:31][cH:32]2)[c:33]([O:34][CH3:35])[cH:36]1>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[O-:10])[cH:11][cH:12]1)[O:30][CH2:29][c:28]1[cH:27][cH:26][c:25]([N:24]=[N:23][c:22]2[cH:21][cH:20][c:19]([O:18][CH2:17][C:15]([O:14][CH3:13])=[O:16])[cH:36][c:33]2[O:34][CH3:35])[cH:32][cH:31]1,[CH3:13][O:14][C:15](=[O:16])[CH2:17][O:18][c:19]1[cH:20][cH:21][c:22]([N:23]=[N:24][c:25]2[cH:26][cH:27][c:28]([CH2:29][OH:30])[cH:31][cH:32]2)[c:33]([O:34][CH3:35])[cH:36]1.[Cl:101][C:1](=[O:2])[O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][cH:12]1.[H-:301].[Na+]>>[C:1](=[O:2])([O:3][c:4]1[cH:5][cH:6][c:7]([N+:8](=[O:9])[OH:10])[cH:11][cH:12]1)[O:30][CH2:29][c:28]1[cH:27][cH:26][c:25]([N:24]=[N:23][c:22]2[cH:21][cH:20][c:19]([O:18][CH2:17][C:15]([O:14][CH3:13])=[O:16])[cH:36][c:33]2[O:34][CH3:35])[cH:32][cH:31]1,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 30.1), ([30.1, 30], 30), (30, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH3:2].[CH3:5][C:4]1([CH3:3])[NH:6][Se:7][c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]21>>[CH2:1]([CH3:2])[N:6]1[C:4]([CH3:3])([CH3:5])[c:13]2[c:8]([cH:9][cH:10][cH:11][cH:12]2)[Se:7]1,[CH3:3][C:4]1([CH3:5])[NH:6][Se:7][c:8]2[cH:9][cH:10][cH:11][cH:12][c:13]21.[Br:101][CH2:1][CH3:2]>>[CH2:1]([CH3:2])[N:6]1[C:4]([CH3:3])([CH3:5])[c:13]2[c:8]([cH:9][cH:10][cH:11][cH:12]2)[Se:7]1,SN2,"[(6, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[C:3]([CH3:4])([CH3:5])[NH:6][C:7](=[O:8])[NH:9][c:10]1[cH:11][cH:12][cH:13][c:14]([CH2:15][c:16]2[n:17][nH:18][c:19](=[O:20])[c:21]3[c:22]2[CH2:23][CH2:24][CH2:25][CH2:26]3)[cH:27]1>>[C:1]1(=[O:2])[C:3]([CH3:4])([CH3:5])[NH:6][C:7](=[O:8])[N:9]1[c:10]1[cH:11][cH:12][cH:13][c:14]([CH2:15][c:16]2[n:17][nH:18][c:19](=[O:20])[c:21]3[c:22]2[CH2:23][CH2:24][CH2:25][CH2:26]3)[cH:27]1,C[O:101][C:1](=[O:2])[C:3]([CH3:4])([CH3:5])[NH:6][C:7](=[O:8])[NH:9][c:10]1[cH:11][cH:12][cH:13][c:14]([CH2:15][c:16]2[n:17][nH:18][c:19](=[O:20])[c:21]3[c:22]2[CH2:23][CH2:24][CH2:25][CH2:26]3)[cH:27]1>>[C:1]1(=[O:2])[C:3]([CH3:4])([CH3:5])[NH:6][C:7](=[O:8])[N:9]1[c:10]1[cH:11][cH:12][cH:13][c:14]([CH2:15][c:16]2[n:17][nH:18][c:19](=[O:20])[c:21]3[c:22]2[CH2:23][CH2:24][CH2:25][CH2:26]3)[cH:27]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(9, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CCO[C:1](=[O:2])[C:3](=[O:4])[c:5]1[c:6]([CH2:7][CH3:8])[cH:9][c:10]([CH3:11])[cH:12][c:13]1[CH2:14][CH3:15].[NH2:16][NH2:17]>>[C:1](=[O:2])([C:3](=[O:4])[c:5]1[c:6]([CH2:7][CH3:8])[cH:9][c:10]([CH3:11])[cH:12][c:13]1[CH2:14][CH3:15])[NH:16][NH2:17],CC[O:101][C:1](=[O:2])[C:3](=[O:4])[c:5]1[c:6]([CH2:7][CH3:8])[cH:9][c:10]([CH3:11])[cH:12][c:13]1[CH2:14][CH3:15].[NH2:16][NH2:17]>>[C:1](=[O:2])([C:3](=[O:4])[c:5]1[c:6]([CH2:7][CH3:8])[cH:9][c:10]([CH3:11])[cH:12][c:13]1[CH2:14][CH3:15])[NH:16][NH2:17],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(16, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2](=[O:3])[c:4]1[cH:5][c:6]([F:7])[c:8]([N:9]2[CH2:10][CH2:11][C:12](=[N:13][O:14][CH:15]3[CH2:26][CH2:25][N:18]([C:19](=[O:20])[O:21][CH:22]([CH3:23])[CH3:24])[CH2:17][CH2:16]3)[CH2:27][CH2:28]2)[cH:29][c:30]1[F:31]>>[CH3:1][CH:2]([OH:3])[c:4]1[cH:5][c:6]([F:7])[c:8]([N:9]2[CH2:10][CH2:11][C:12](=[N:13][O:14][CH:15]3[CH2:16][CH2:17][N:18]([C:19](=[O:20])[O:21][CH:22]([CH3:23])[CH3:24])[CH2:25][CH2:26]3)[CH2:27][CH2:28]2)[cH:29][c:30]1[F:31],[CH3:1][C:2](=[O:3])[c:4]1[cH:5][c:6]([F:7])[c:8]([N:9]2[CH2:10][CH2:11][C:12](=[N:13][O:14][CH:15]3[CH2:16][CH2:17][N:18]([C:19](=[O:20])[O:21][CH:22]([CH3:23])[CH3:24])[CH2:25][CH2:26]3)[CH2:27][CH2:28]2)[cH:29][c:30]1[F:31].[BH4-:301].[CH3][OH1:302]>>[CH3:1][CH:2]([OH:3])[c:4]1[cH:5][c:6]([F:7])[c:8]([N:9]2[CH2:10][CH2:11][C:12](=[N:13][O:14][CH:15]3[CH2:16][CH2:17][N:18]([C:19](=[O:20])[O:21][CH:22]([CH3:23])[CH3:24])[CH2:25][CH2:26]3)[CH2:27][CH2:28]2)[cH:29][c:30]1[F:31],carbonyl_reduction,"[([301, 301.1], 2), ([2, 3], 3), (3, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
